US07943768B2
5-Chloro-2-piperazin-1-yl-1H-benzimidazole Trifluoroacete Salt
TFA (2 mL) was added to a solution of tert-butyl 4-(5-chloro-1H-benzimidazol-2-yl)piperazine-1-carboxylate (72 mg) in DCM (2 mL) and the reaction was stirred for 1 h. The solvent was then evaporated under high vacuum for 1 h to afford the title compound as a gum which was used without further analysis.

reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(5-chloro-1H-benzimidazol-2-yl)piperazine-1-carboxylate | 72 mg | ClC1=CC2=C(NC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H21ClN4O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-2-piperazin-1-yl-1H-benzimidazole | ClC1=CC2=C(NC(=N2)N2CCNCC2)C=C1 | C11H13ClN4
